US06288054B1
A solution of 4-chloro-3-nitro-phenylacetic acid (25.0 g, 0.116 mol) in 1N aqueous NaOH (143 mL, 0.143 mol) was added to preformed polysulfide solution (from 72.42 g, 0.301 mol of Na2S.9H2O, 26.87 g, 0.837 mol of S, and 74 mL of H2O) at 50° C. The resulting mixture was mechanically stirred as the temperature of the oil bath was gradually increased to 115° C. over 10 min. The mixture was stirred at that temperature for two hours then allowed to cool to room temperature over two hours. Carbon disulfide (13.9 mL, 0.231 mol) was added and the reaction flask was placed in a 50° C. oil bath. The reaction mixture was stirred at that temperature for 18 hours then cooled in an ice bath, stirred, and acidified by cautious addition of glacial acetic acid (50 mL). The mixture was filtered and the filter cake was washed with water. The solid was stirred with sodium carbonate (30.7 g, 0.29 mol) in water then filtered to remove sulfur. The filtrate was cooled in an ice-bath and gradually acidified to pH 3.3 by addition of 6N HCl (100 mL). The precipitate was collected, washed with ice-cold water (100 mL) and dried in vacuo to a pale brown solid (21.5 g, 82%). This crude product was recrystallized from ethanol to afford 5-carboxymethyl-2-thioxo-2,3-dihydrobenzothiazole as a pale brown solid (14.2 g).

reactant | 4-chloro-3-nitro-phenylacetic acid | 0.116 mol, 25.0 g | ClC1=C(C=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H6ClNO4
reactant | NaOH | 0.143 mol, 1N, 143 mL | [OH-].[Na+]
reactant | Carbon disulfide | 0.231 mol, 13.9 mL | C(=S)=S | CS2
reactant | sodium carbonate | 0.29 mol, 30.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-carboxymethyl-2-thioxo-2,3-dihydrobenzothiazole | 14.2 g | C(=O)(O)CC=1C=CC2=C(NC(S2)=S)C1 | C9H7NO2S2
